US04208202
(a) 1-(3'-Nitro-4',6'-dimethylphenyl)-azetidin-2-one
5 g of sodium hydride (in the form of a 55% strength dispersion in oil) are stirred in 100 ml of dimethylsulphoxide until no further evolution of gas can be detected. 21.5 g (0.084 mol) of N-(3-nitro-4,6-dimethylphenyl)-β-chloropropionamide, suspended in 500 ml of tetrahydrofurane, are then added in the course of 5-10 minutes. The reaction temperature is kept at 15° C. for 1/2 an hour and water is then added dropwise in order to destroy excess sodium hydride. The reaction solution is taken up in methylene chloride and washed with water and saturated NaCl solution, dried (MgSO4) and evaporated. The crude product is subjected to fractional filtration on silica gel in chloroform. This gives 14.5 g (78%) of product; melting point 102°.

reactant | sodium hydride | 5 g | [H-].[Na+]
reactant | N-(3-nitro-4,6-dimethylphenyl)-β-chloropropionamide | 0.084 mol, 21.5 g | [N+](=O)([O-])C=1C=C(C(=CC1C)C)NC(CCCl)=O | C11H13ClN2O3
reactant | water | O | H2O
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofurane | 500 ml | O1CCCC1 | C4H8O
product | 1-(3'-Nitro-4',6'-dimethylphenyl)-azetidin-2-one | [N+](=O)([O-])C=1C=C(C(=CC1C)C)N1C(CC1)=O | C11H12N2O3
